US07915267B2
1-(3-{[2-(1H-1,2,4-triazol-3-ylthio)ethyl]oxy}phenyl)methanamine
A solution of 3-{[2-(1H-1,2,4-triazol-3-ylthio)ethyl]oxy}benzonitrile obtained in Reference Example 2 (9.00 g, 36.5 mmol) and Raney-nickel (5.00 g) in 5N ammonia/methanol (300 mL) was stirred at room temperature overnight under hydrogen atmosphere (1 atm). The catalyst was filtered off, and the filtrate was concentrate. The obtained residue was crystallized from toluene to give the title compound as a pale-blue powder (6.45 g, 71%).

reactant | 3-{[2-(1H-1,2,4-triazol-3-ylthio)ethyl]oxy}benzonitrile | N1N=C(N=C1)SCCOC=1C=C(C#N)C=CC1 | C11H10N4OS
solvent | ammonia methanol | 5N, 300 mL | N.CO
catalyst | Raney-nickel | 5.00 g | [Ni] | Ni
product | 1-(3-{[2-(1H-1,2,4-triazol-3-ylthio)ethyl]oxy}phenyl)methanamine | 6.45 g, 71% | N1N=C(N=C1)SCCOC=1C=C(C=CC1)CN | C11H14N4OS
